US09315495B2
To a solution of 5-bromothiophene-2-carbaldehyde (0.12 mL, 1.0 mmol) and 4-trifluoromethylphenol (195 mg, 1.20 mmol) in 3 mL dimethylformamide was added potassium carbonate (276 mg, 2.00 mmol). The resulting suspension was stirred at 100° C. for 68 h before being cooled to room temperature and poured into 20 mL 0.2 N hydrochloric acid. Organics were extracted with ether (3×25 mL), washed with 2 N NaOH (2×30 mL), 0.2 N hydrochloric acid and brine (30 mL each), dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (5-10% ethyl acetate in hexanes+2% triethylamine) to give 5-(4-(trifluoromethyl)phenoxy)thiophene-2-carbaldehyde (79 mg, 29%) as an off-white solid. Used without further characterization.

reactant | 5-bromothiophene-2-carbaldehyde | 1.0 mmol, 0.12 mL | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | 4-trifluoromethylphenol | 1.20 mmol, 195 mg | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 2.00 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.2 N, 20 mL | Cl | ClH
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-(4-(trifluoromethyl)phenoxy)thiophene-2-carbaldehyde | 79 mg, 29% | FC(C1=CC=C(OC2=CC=C(S2)C=O)C=C1)(F)F | C12H7F3O2S
